US08957080B2
Into a 250 mL 3-necked round-bottom flask, was placed a solution of 1-fluoro-2-(4-nitrophenoxy)benzene (5 g, 21.44 mmol, 1.00 equiv) in methanol/H2O (2/1=V/V) (100 mL), and NH4Cl (1 g, 18.70 mmol, 0.87 equiv). This was followed by the addition of Fe (7 g, 5.83 equiv), in portions at 80° C. in 20 min. The resulting solution was stirred for 1 h at reflux in an oil bath. The reaction mixture was cooled in a water bath. The solids were filtered out and the filtrate was concentrated under vacuum. The resulting solution was extracted with ethyl acetate and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum to give 3.2 g (73%) of 4-(2-fluorophenoxy)aniline as a light yellow solid.

reactant | 1-fluoro-2-(4-nitrophenoxy)benzene | 21.44 mmol, 5 g, 1.00 equiv | FC1=C(C=CC=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H8FNO3
reactant | NH4Cl | 18.70 mmol, 1 g, 0.87 equiv | [NH4+].[Cl-]
solvent | methanol H2O | 100 mL | CO.O
catalyst | Fe | 7 g, 5.83 equiv | [Fe] | Fe
product | 4-(2-fluorophenoxy)aniline | 3.2 g, 73% | FC1=C(OC2=CC=C(N)C=C2)C=CC=C1 | C12H10FNO
